US05116863
Process B: 2-(4,4-Dimethyl-2-oxazoline-2-yl)-11-oxo-6,11-dihydrodibenz[b,e]oxepin
In this process, 8.0 g of N-(1,1-dimethyl-2-hydroxyethyl)-11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxamide is suspended in 100 ml of methylene chloride. To the suspension is added 3.6 g of thionyl chloride under a nitrogen atmosphere and ice-cooling and the mixture is stirred at room temperature for one hour. To the mixture is added 300 ml of methylene chloride, and the mixture is washed with saturated aqueous sodium bicarbonate solution and dried over anhydrous magnesium sulfate. The solvent is distilled away under reduced pressure and the residue is purified by column chromatography on silica gel (eluent: hexane:ethyl acetate=2:1 ). The resultant crude product is recrystallized from hexane to obtain 6.3 g of the desired product as a white crystal.

reactant | N-(1,1-dimethyl-2-hydroxyethyl)-11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-carboxamide | 8.0 g | CC(CO)(C)NC(=O)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C19H19NO4
reactant | thionyl chloride | 3.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-(4,4-Dimethyl-2-oxazoline-2-yl)-11-oxo-6,11-dihydrodibenz[b,e]oxepin | 6.3 g | CC1(N=C(OC1)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1)C | C19H17NO3
